US06908940B2
A mixture of 2-(benzyloxy)-4-fluorobenzyl alcohol (6.54 g) and manganese(IV) oxide (9.04 g) in chloroform (70 ml) was refluxed and stirred for 2 hr. The insoluble material was removed by filtration and washed with chloroform. The filrate was evaporated and the residue (6.7 g) was chromatographed over silica gel (90 g) eluting with a mixture of hexane and dichloromethane (5:1) to dichloromethane to give a colorless oil of 2-(benzyloxy)-4-fluorobenzaldehyde (3.8 g, 59%).

reactant | 2-(benzyloxy)-4-fluorobenzyl alcohol | 6.54 g | C(C1=CC=CC=C1)OC1=C(CO)C=CC(=C1)F | C14H13FO2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 9.04 g | [O-2].[Mn+4].[O-2]
product | 2-(benzyloxy)-4-fluorobenzaldehyde | 3.8 g, 59% | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)F | C14H11FO2
